US04839365
To 4.43 g (0.0293 mol) of 4-methyl-6, 7-dihydrothieno[3, 2-c]pyridine (g-1) were added 244 ml of dry xylene and 3.42 g of 10% palladium carbon, and the mixture was refluxed for 34 hr. After being cooled down to room temperature, the solution was filtered. The filtrate was concentrated under reduced pressure and subjected to silica gel column chromatography, eluting with AcOEt - MeOH, whereby 1.47 g (Yield : 33.6%) of the objective product, 4-methylthieno[3, 2-c]pyridine (j-1) was obtained as brown liquid.

reactant | 4-methyl-6, 7-dihydrothieno[3, 2-c]pyridine | 0.0293 mol, 4.43 g | CC1=NCCC2=C1C=CS2 | C8H9NS
catalyst | palladium carbon | 3.42 g | [C].[Pd]
solvent | xylene | 244 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-methylthieno[3, 2-c]pyridine | CC1=NC=CC2=C1C=CS2 | C8H7NS
